US07939526B2
Solid platinum oxide (0.5) was added to a solution of 1-{2-[2-(methylsulfonyl)ethoxy]ethyl}-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine (0.9 g, 2.6 mmol) in trifluoroacetic acid (7 mL) in a Parr vessel. The vessel was placed on a shaker and then pressurized with hydrogen to 50 psi (3.4×105 Pa). Hydrogen was added periodically to maintain the pressure. After 55 hours the reaction mixture was purged with nitrogen and then filtered through a layer of CELITE filter agent. The filter cake was washed with dichloromethane (˜200 mL). The filtrate was concentrated under reduced pressure to provide an oil. The oil was dissolved in water (50 mL). The pH of the solution was adjusted to pH 12 by the addition of aqueous 50% sodium hydroxide and then the solution was extracted with dichloromethane (2×100 mL). The combined extracts were washed with brine (100 mL), dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure to provide crude product as a white foam. This material was recrystallized from ethyl acetate. The resulting off white plates were isolated by filtration, washed with ethyl acetate and dried under vacuum at 65° C. for 4 hours to provide 0.7 g of 1-{2-[2-(methylsulfonyl)ethoxy]ethyl}-2-methyl-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine, mp 173-175° C. 1H NMR (300 MHz, DMSO-d6) δ 5.65 (bs, 2H), 4.40 (t, J=5.0 Hz, 2H), 3.73 (t, J=5.6 Hz, 2H), 3.32 (t, J=5.6 Hz, 2H), 2.91 (m, 2H), 2.78 (s, 3H) 2.65 (m, 2H), 2.47 (s, 3H), 1.75 (m, 4H); MS (APCI) m/z 353 (M+

reactant | 1-{2-[2-(methylsulfonyl)ethoxy]ethyl}-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine | 2.6 mmol, 0.9 g | CS(=O)(=O)CCOCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)C | C16H20N4O3S
reactant | hydrogen | [H][H] | H2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | trifluoroacetic acid | 7 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 50 mL | O | H2O
catalyst | platinum oxide | [Pt]=O
product | 1-{2-[2-(methylsulfonyl)ethoxy]ethyl}-2-methyl-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine | 0.7 g | CS(=O)(=O)CCOCCN1C(=NC=2C(=NC=3CCCCC3C21)N)C | C16H24N4O3S
